US07601714B2
(4-Chloro-5-cyanopyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine (50 mg, 0.16 mmol) was dissolved in DMF (1 mL) and tert-butyl trans-4-aminomethylcyclohexylcarbamate (70 mg, 0.30 mmol) was added followed by DIPEA (53 μL, 0.30 mmol). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was then diluted with EtOAc and washed with water (×3). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 76 mg (96%) of (4-{[5-cyano-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester.

reactant | (4-Chloro-5-cyanopyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine | 0.16 mmol, 50 mg | ClC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F | C13H8ClF3N4O
reactant | tert-butyl trans-4-aminomethylcyclohexylcarbamate | 0.30 mmol, 70 mg | NC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H24N2O2
reactant | DIPEA | 0.30 mmol, 53 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-{[5-cyano-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 76 mg, 96% | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F)=O | C25H31F3N6O3
